US07544683B2
a) Step 1: trans-(4-isopropyl-piperazin-1-yl)-(4-hydroxy-cyclohexyl)-methanone (Intermediate 4)
A mixture of 1 g (6.9 mmol) of trans-4-hydroxycyclohexanecarboxylic acid (commercially available), 1.07 mg (8.3 mmol) of 1-(isopropyl)-piperazine (commercially available), 2.67 g (8.3 mmol) of TBTU and 1.54 g (15.2 mmol) of triethylamine in 7 ml DMF was stirred for 12 h at room temperature. The mixture was diluted with AcOEt, washed with water and brine, dried over MgSO4, and evaporated. The mixture was purified by column chromatography on NH2-silicagel eluting with CH2Cl2 and methanol=from 100:0 to 98:2. Evaporation of the combined product fractions yielded 0.9 g (51%) of the title compound as brown oil. MS (m/e): 255.2 (MH+).

reactant | trans-4-hydroxycyclohexanecarboxylic acid | 6.9 mmol, 1 g | O[C@@H]1CC[C@H](CC1)C(=O)O | C7H12O3
reactant | 1-(isopropyl)-piperazine | 8.3 mmol, 1.07 mg | C(C)(C)N1CCNCC1 | C7H16N2
reactant | TBTU | 8.3 mmol, 2.67 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 15.2 mmol, 1.54 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | trans-(4-isopropyl-piperazin-1-yl)-(4-hydroxy-cyclohexyl)-methanone | 0.9 g, 51% | C(C)(C)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)O | C14H26N2O2
